US05876465
In accordance with Example No. 3, 22.7 g of (5-chloro-3-methoxy-2-nitrophenyl)acetonitrile dissolved in a 100 ml/70 ml mixture of THF/37% HCl were reduced with 26 g of zinc powder. 19 g of (2-amino-5-chloro-3-methoxyphenyl)acetonitrile were obtained (yield=97%).

reactant | (5-chloro-3-methoxy-2-nitrophenyl)acetonitrile | 22.7 g | ClC=1C=C(C(=C(C1)CC#N)[N+](=O)[O-])OC | C9H7ClN2O3
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc | 26 g | [Zn] | Zn
product | (2-amino-5-chloro-3-methoxyphenyl)acetonitrile | 19 g, yield=97% | NC1=C(C=C(C=C1OC)Cl)CC#N | C9H9ClN2O
